US08293774B2
(37-1):difluorostyrene
5.25 g (0.02 mol) of triphenyl phosphine was dissolved in 20 ml of dichloromethane, and the mixture was cooled to 0° C. 2.1 g (0.01 mol) of dibromodifluoromethane was added to the mixture using an injector, and the reaction mixture was stirred for 30 minutes at room temperature. 1.06 g (0.01 mol) of benzaldehyde was added thereto and the mixture was refluxed for 4 hours. The resulting mixture was distilled under a reduced pressure at 40° C./1 mmHg using a distilling apparatus to obtain the title compound (0.81 g, 57.5%).

reactant | triphenyl phosphine | 0.02 mol, 5.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dibromodifluoromethane | 0.01 mol, 2.1 g | BrC(F)(F)Br | CBr2F2
reactant | benzaldehyde | 0.01 mol, 1.06 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | difluorostyrene | 0.81 g, 57.5% | FC(=CC1=CC=CC=C1)F | C8H6F2
